* C:\Users\adrik\Documents\ee308\lab2\schmitt trigger.asc
V1 N007 0 PULSE(-0.01 0.01 0 {0.5 /f} {0.5 /f} 0 {1/f})
R2 0 N007 1k
Q1 N004 N007 N016 0 2N3904
Q2 N003 N013 N016 0 2N3904
R3 N016 N023 3k
R4 N001 N004 4k
R5 N001 N003 4k
Q3 N011 N004 N002 0 2N3906
Q4 N014 N003 N002 0 2N3906
D1 N003 N004 1N4148
D2 N004 N003 1N4148
D3 N008 N013 1N4148
D4 N008 N014 1N4148
D5 N013 N017 1N4148
D6 N014 N017 1N4148
R6 N005 N008 6k
R7 N001 N005 5k
R8 N017 N022 6k
R9 N022 N023 5k
R10 N014 N023 3k
R11 N011 N023 3k
V2 N001 0 12
R13 N013 0 450
D9 N021 0 1N4148
D12 0 N020 1N4148
V3 N023 0 -12
R1 N001 N002 900
D8 N019 N021 1N4148
D11 N020 N018 1N4148
D13 N014 N019 1N4148
D14 N018 N014 1N4148
C1 N010 N009 56p
R12 N010 N009 1k
D7 N006 N011 1N4148
D10 N006 N012 1N4148
D15 N011 N015 1N4148
D16 N012 N015 1N4148
R14 N001 N006 2k
R15 N015 N023 2k
R16 N012 0 150
R17 out N012 100
.model D D
.lib C:\Users\adrik\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adrik\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 300u 250u
.param f=100k
.backanno
.end
